US04030925
39. 3-Benzyl-1-{4-[2-(4-chlorobenzoyl)hydrazino]phenyl}thiourea (NA-34)
1-(4-Chlorobenzoyl)-2-(4-aminophenyl)hydrazine hydrochloride (1.5 g, 0.005 mole) was dissolved in hot ethanol (30 ml) under a nitrogen atmosphere. Benzyl isothiocyanate (0.82 g, 0.0055 mole) and potassium acetate (0.6 g, 0.006 mole) were added and the mixture was refluxed under nitrogen for two hours. The reaction mixture was cooled to room temperature, diluted with water (10-15ml.) and chilled in ice. The product was filtered off, washed with ethanol and dried. Recrystallization of the product from acetonitrile gave an off-white solid. Yield 1.25 g (62%), m.p. 197°-199° C.

reactant | 1-(4-Chlorobenzoyl)-2-(4-aminophenyl)hydrazine hydrochloride | 0.005 mole, 1.5 g | Cl.ClC1=CC=C(C(=O)NNC2=CC=C(C=C2)N)C=C1
reactant | Benzyl isothiocyanate | 0.0055 mole, 0.82 g | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | potassium acetate | 0.006 mole, 0.6 g | C(C)(=O)[O-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 10-15ml | O | H2O
product | 3-Benzyl-1-{4-[2-(4-chlorobenzoyl)hydrazino]phenyl}thiourea | C(C1=CC=CC=C1)NC(NC1=CC=C(C=C1)NNC(C1=CC=C(C=C1)Cl)=O)=S | C21H19ClN4OS
